* IF Amplifier — Single-stage diff pair (one stage of two)
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/bthomas3/Videos/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ

VCC vcc 0 DC 3.3
VIN_P inp 0 DC 0.9 AC 0.5m
VIN_N inn 0 DC 0.9 AC -0.5m

XQ1 outp inp tail 0 npn13G2l m=2
XQ2 outn inn tail 0 npn13G2l m=2
RL1 vcc outp 500
RL2 vcc outn 500
ITAIL tail 0 DC 2m

.control
ac dec 50 1k 100g
let vdiff = vm(outp) + vm(outn)
let gain_db = db(v(outp) - v(outn))
meas ac gmax max gain_db
meas ac f3db when gain_db=gmax-3 fall=1
echo "=== IFA (single stage) ==="
print gmax
print f3db
quit
.endc
.end