* ============================================================
* 77 GHz FMCW Radar — Complete Single-Channel Receive Chain
* Baseband-equivalent behavioral simulation
*
* RF front-end (LNA+Mixer) modeled as equivalent baseband gain:
*   G_rf = G_lna * G_mixer = 15dB + 5dB = 20dB (voltage gain = 10)
*
* Chain: IF_input → IFA → VGA → ADC → DIGIF
* Plus: BIAS (reference), VCO/TXPA/ILFD (power budget only)
*
* Scenario: FMCW radar, target at 10m
*   Beat freq = 2*BW*R/(c*T) = 2*4G*10/(3e8*1m) = 267kHz → use 1MHz
*   RX power at antenna: Pt*Gt*Gr*λ²*σ/(4π)³/R⁴
*     = 10mW*10*10*(3.9mm)²*0.01/(4π)³/(10)⁴ = ~1pW = -90dBm
*   Vrx = sqrt(2*1e-12*50) = 10nV → after LNA+Mixer(20dB): 100nV IF
* ============================================================

* === PARAMETERS ===
.param vcc_nom=3.3
.param f_beat=1e6
.param v_if_in=10u
.param vctrl_vga=1.0

* === SUPPLY ===
VCC vcc 0 DC {vcc_nom}

* === RF FRONT-END (modeled as equivalent IF input) ===
* RX signal after LNA (15dB) + Mixer (5dB) = 20dB total
* 10nV antenna input → 100nV at IF
* Differential beat signal at 1MHz
Vif_p if_p if_cm SIN(0 {v_if_in} {f_beat})
Vif_n if_n if_cm SIN(0 {v_if_in} {f_beat} 0 0 180)
Vif_cm if_cm 0 DC 0

* === IF AMPLIFIER (2-stage, 40dB gain, 10MHz BW) ===
* Gain: 100V/V, BW: 10MHz, Vmax: ±0.5V, NF: 8dB
.subckt IFA_2STAGE inp inn outp outn vcc gnd
.param g1=5 g2=5 bw=10e6 vmax=0.5
* Stage 1
B_s1p s1p gnd V = {vmax}*tanh({g1}/{vmax}*V(inp,inn))
B_s1n s1n gnd V = -{vmax}*tanh({g1}/{vmax}*V(inp,inn))
R_s1p s1p s1pf 1
C_s1p s1pf gnd {1/(6.283*{bw}*1.41)}
R_s1n s1n s1nf 1
C_s1n s1nf gnd {1/(6.283*{bw}*1.41)}
* Stage 2
B_s2p outp gnd V = {vmax}*tanh({g2}/{vmax}*V(s1pf,s1nf))
B_s2n outn gnd V = -{vmax}*tanh({g2}/{vmax}*V(s1pf,s1nf))
R_s2p outp outpf 1
C_s2p outpf gnd {1/(6.283*{bw}*1.41)}
R_s2n outn outnf 1
C_s2n outnf gnd {1/(6.283*{bw}*1.41)}
I_bias vcc gnd DC 4m
.ends IFA_2STAGE

XIFA if_p if_n ifa_p ifa_n vcc 0 IFA_2STAGE

* === VGA (0-30dB, controlled by VCTRL) ===
* Gain = gmax * sigmoid(VCTRL)
.subckt VGA_CTRL inp inn outp outn vctrl vcc gnd
.param bw=20e6 gmax=15.85
B_vgap outp gnd V = {gmax}*(0.5+0.5*tanh(5*(V(vctrl)-0.9)))*V(inp,inn)
B_vgan outn gnd V = -{gmax}*(0.5+0.5*tanh(5*(V(vctrl)-0.9)))*V(inp,inn)
R_op outp opf 1
C_op opf gnd {1/(6.283*{bw})}
R_on outn onf 1
C_on onf gnd {1/(6.283*{bw})}
I_bias vcc gnd DC 2m
.ends VGA_CTRL

Vvctrl vctrl_node 0 DC {vctrl_vga}
XVGA ifa_p ifa_n vga_p vga_n vctrl_node vcc 0 VGA_CTRL

* === ADC (12-bit SAR, 20MSPS) ===
* Quantized output as analog voltage (0-3.3V maps to 0-4095 codes)
.subckt ADC_12B ainp ainn clk dout vcc gnd
.param vref=1.2 vcc_val=3.3
B_adc dout gnd V = {vcc_val}*min(1,max(0,(V(ainp,ainn)/{vref}+0.5)))
R_del dout dout_d 100
C_del dout_d gnd 1p
I_bias vcc gnd DC 15m
.ends ADC_12B

Vclk clk 0 PULSE(0 3.3 0 1n 1n 24n 50n)
XADC vga_p vga_n clk dout vcc 0 ADC_12B

* === DIGITAL INTERFACE (CML output buffer) ===
.subckt DIGIF_CML din dout clk vcc gnd
.param swing=0.4 vcom=2.9 bw=10e9
B_out dout gnd V = {vcom}+{swing/2}*tanh(20*(V(din)-1.65))
R_bw dout doutf 1
C_bw doutf gnd {1/(6.283*{bw})}
I_bias vcc gnd DC 72m
.ends DIGIF_CML

XDIGIF dout dout_cml clk vcc 0 DIGIF_CML

* === POWER BUDGET (current sinks for RF blocks not simulated) ===
* VCO: 10mA, LNA: 16mA, Mixer: 12mA, TXPA: 60mA, ILFD: 8mA
I_vco vcc 0 DC 10m
I_lna vcc 0 DC 16m
I_mix vcc 0 DC 12m
I_txpa vcc 0 DC 60m
I_ilfd vcc 0 DC 8m

* === SIMULATION ===
* Run 20µs to capture multiple beat cycles at 1MHz
.tran 10n 20u

.control
run

* Compute differential signals using let
let vif_diff = v(if_p) - v(if_n)
let vifa_diff = v(ifa_p) - v(ifa_n)
let vvga_diff = v(vga_p) - v(vga_n)

* Get peak-to-peak values in second half (steady state)
meas tran if_pp pp vif_diff from=10u to=20u
meas tran ifa_pp pp vifa_diff from=10u to=20u
meas tran vga_pp pp vvga_diff from=10u to=20u
meas tran adc_pp pp v(dout) from=10u to=20u
meas tran adc_avg avg v(dout) from=10u to=20u
meas tran dig_pp pp v(dout_cml) from=10u to=20u
meas tran icc avg i(vcc) from=10u to=20u

let g_ifa_db = 20 * log(ifa_pp / if_pp) / log(10)
let g_vga_db = 20 * log(vga_pp / ifa_pp) / log(10)
let g_total_db = 20 * log(vga_pp / if_pp) / log(10)
let pdc_mw = abs(icc) * 3.3 * 1000

echo ""
echo "========================================================"
echo "  77GHz FMCW Radar — Complete Signal Chain Results"
echo "========================================================"
echo ""
echo "  Scenario: Target at 10m, beat freq = 1MHz"
echo "  IF input = 10uV diff (after 20dB RF front-end gain)"
echo ""
echo "  --- Signal Levels (Vpp differential) ---"
echo "  IF input:       $&if_pp V"
echo "  IFA output:     $&ifa_pp V"
echo "  VGA output:     $&vga_pp V"
echo "  ADC output:     $&adc_pp V (0-3.3V = 0-4095 codes)"
echo "  DIGIF output:   $&dig_pp V (CML swing)"
echo ""
echo "  --- Gain ---"
echo "  IFA gain:       $&g_ifa_db dB"
echo "  VGA gain:       $&g_vga_db dB (VCTRL=1.0V)"
echo "  Total BB gain:  $&g_total_db dB"
echo ""
echo "  --- Power Budget ---"
echo "  Total PDC:      $&pdc_mw mW"
echo "  Breakdown: VCO=33mW LNA=53mW Mix=40mW TXPA=198mW"
echo "             ILFD=26mW IFA=13mW VGA=7mW ADC=50mW DIG=238mW"
echo ""
echo "  --- ADC Performance ---"
echo "  ADC mid-code:   $&adc_avg V (ideal=1.65V)"
echo "  ADC swing:      $&adc_pp V"
echo "========================================================"
quit
.endc
.end